US05037833
3,4-Dihydro-1H-thiopyrano[4,3]quinolin-10-amine
Tetrahydrothiopyran-4-one (10.0 g) was mixed with anthranilonitrile (5.08 g) and the mixture warmed at 60° C. until a homogeneous solution was obtained. Freshly fused ZnCl2 (8.2 g) was then added portionwise and the temperature of the reaction mixture raised to 120° C. After two (2) hours it was cooled and distributed between 10% NaOH and 2-butanone. The organic phase was separated, dried and concentrated, and the crude product triturated with Et2O and then passed over a silica gel column (5% Et3N/ethyl acetate). The product-containing fractions were concentrated and the product recrystallized from toluene to give 3.66 g, m.p. 214°-216° C.

reactant | Tetrahydrothiopyran-4-one | 10.0 g | S1CCC(CC1)=O | C5H8OS
reactant | anthranilonitrile | 5.08 g | C(C=1C(N)=CC=CC1)#N | C7H6N2
reactant | NaOH | [OH-].[Na+]
reactant | 2-butanone | CC(CC)=O | C4H8O
catalyst | ZnCl2 | 8.2 g | [Cl-].[Cl-].[Zn+2]
product | 3,4-Dihydro-1H-thiopyrano[4,3]quinolin-10-amine | N1CCCC=2C=CC=3C(C12)=C(SCC3)N | C12H14N2S
